US08222416B2
2-Amino-3-iodo-5-nitropyridine (10.0 g, 37.75 mmol) was dissolved in a mixture of triethylamine (250 mL), tetrahydrofuran (40 mL), N,N-dimethylacetamide (80 mL) and the solution was degassed and purged with nitrogen. Trimethylsilylacetylene (8.0 mL, 56.5 mmol), copper(I) iodide (0.145 g, 0.75 mmol) and bis(triphenylphosphino) palladium (II) chloride (0.53 g, 0.75 mmol) were added. The mixture was degassed and purged with nitrogen one more time, then stirred at ambient temperature for 16 h. The precipitate was removed by filtration, and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography (silica gel from QingDao, 200-300 mesh, 15%-35% ethyl acetate/hexanes) to afford 5-nitro-3-trimethylsilanylethynyl-pyridin-2-ylamine (6.2 g, 70%) as a yellow solid: LC/MS m/e calcd for C10H13N3O2Si [M+H]+ 236.32, observed 236.0.

reactant | 2-Amino-3-iodo-5-nitropyridine | 37.75 mmol, 10.0 g | NC1=NC=C(C=C1I)[N+](=O)[O-] | C5H4IN3O2
reactant | Trimethylsilylacetylene | 56.5 mmol, 8.0 mL | C[Si](C)(C)C#C | C5H10Si
solvent | triethylamine | 250 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 80 mL | CN(C(C)=O)C | C4H9NO
catalyst | copper(I) iodide | 0.75 mmol, 0.145 g | [Cu]I
catalyst | bis(triphenylphosphino) palladium (II) chloride | 0.75 mmol, 0.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
product | 5-nitro-3-trimethylsilanylethynyl-pyridin-2-ylamine | 6.2 g, 70% | [N+](=O)([O-])C=1C=C(C(=NC1)N)C#C[Si](C)(C)C | C10H13N3O2Si
